US07205326B2
1-[2-(4-Nitro-benzyloxy)-ethyl]-1H-[1,2,3]triazole (3.6 g, 14.5 mmol) and platinum dioxide (0.4 g) were suspended in methanol (30 ml) and THF (30 ml) and hydrogenated for 3 h at 42 mbar. After filtration and concentration 3 g (95%) 4-(2-[1,2,3]triazol-1-yl-ethoxymethyl)-phenylamine were obtained as beige solid.

reactant | 1-[2-(4-Nitro-benzyloxy)-ethyl]-1H-[1,2,3]triazole | 14.5 mmol, 3.6 g | [N+](=O)([O-])C1=CC=C(COCCN2N=NC=C2)C=C1 | C11H12N4O3
reactant | THF | 30 ml | C1CCOC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
catalyst | platinum dioxide | 0.4 g | [Pt](=O)=O
product | 4-(2-[1,2,3]triazol-1-yl-ethoxymethyl)-phenylamine | 95% | N1(N=NC=C1)CCOCC1=CC=C(C=C1)N | C11H14N4O
